datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10](=[C:11]([C:12](=[C:13]([C:14]([H:22])([H:23])[H:24])[H:21])[H:20])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0]1([H:3])([H:4])[C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:13]([C:14]([H:22])([H:23])[H:24])([H:21])[C:12]([H:20])=[C:11]([H:19])[C:10]1([C:9]([H:15])([H:16])[H:17])[H:18],111.42
[C:0]([C:1]([N:2]([H:8])[H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[O:10][H:11]>>[C:0]([C:1]([N:2][H:9])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][O:10][H:11],-11.96624
[C:0]1=[C:1]=[C:2]([H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])[C:6]=1[H:11]>>[C:0]1=[C:1]=[C:2]([H:7])[C:3]([H:8])=[C:4][C:5]([H:9])([H:10])[C:6]=1[H:11],348.56904
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:17])[H:18])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],81.2951
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][O:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][O:32][O:33],199.11656
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([O:1][H:5])([H:3])[H:4].[H:2][C:6](=[C:7]([H:9])[H:10])[H:8],30.0202
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][O:11][H:12],-0.14644
[H:4].[S:0]([S:1][H:3])[H:2]>>[H:2][H:4].[S:0][S:1][H:3],-11.2968
[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]1([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]([H:22])([H:23])[C:8]1([H:24])[H:25])([H:13])[H:14])([H:12])[H:18])([H:9])([H:10])[H:11],78.006496
[C:0]([C:1]([N:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[O:9][H:10]>>[C:0]([C:1]([N:2]=[O:3])[H:8])([H:4])([H:5])[H:6].[H:7][O:9][H:10],-4.987328
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8][C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8](=[C:7]([H:11])[H:12])[C:9](=[C:10]([H:14])[H:15])[H:13],36.4008
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[H:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:10][H:31],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:6],22.1752
[C:0]([C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2](=[O:3])[C:4]([C:5]([O:6])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],179.912
[C:0]([C:1]1[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])([H:11])[H:12]>>[C:0]([C:1]1([H:10])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:11])[H:12],200.765056
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:9])([H:7])[H:8],52.3418
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])([H:7])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:4])([H:5])[H:6],39.8735
